2118-09-24 06:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Admitted to MICU-6
 EKG - At [**2118-9-23**] 10:20 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2118-9-24**] 01:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2118-9-23**] 10:00 PM
   Heparin Sodium (Prophylaxis) - [**2118-9-23**] 10:00 PM
   Morphine Sulfate - [**2118-9-24**] 01:10 AM
   Other medications:
   Tylenol prn, albuterol prn, colace prn
   Hep sc tid, atrovent neb q6h, lamivudine/zidoviduine, PPI,
   methylprednisone 80 q8h, lopinavir/ritonavir, levofloxacin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-9-24**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.9
C (96.6
   HR: 92 (83 - 105) bpm
   BP: 114/64(76) {114/59(72) - 129/69(82)} mmHg
   RR: 31 (27 - 44) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                     10 mL
                                                                    500 mL
   PO:
             TF:
   IVF:
                                                                     10 mL
                                                                    500 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    500 mL
   Urine:
   500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     10 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 96%
   ABG: 7.46/20/64/14/-6
   PaO2 / FiO2: 91
   Physical Examination
   General: NAD, pleasant, appropriate, no respiratory distress, wearing
   venti mask
   HEENT: anicteric, non-injected sclear
   Neck: supple
   Cardiovascular: RRR, nl S1/S2, unable to hear murmur/rubs/gallops.
   Respiratory: decreased breath sounds left base > right base with
   crackles
   Gastrointestinal:Soft,tender lower quadrants b/l, no rebound, no
   gaurding. + BS
   Skin: clear, multiple tattoos
   Extremity: edema b/l
   Labs / Radiology
   135 K/uL
   8.3 g/dL
   135 mg/dL
   1.0 mg/dL
   14 mEq/L
   4.3 mEq/L
   15 mg/dL
   107 mEq/L
   130 mEq/L
   26.1 %
   5.3 K/uL
        [image002.jpg]
                             [**2118-9-23**]  09:31 PM
                             [**2118-9-23**]  10:02 PM
                             [**2118-9-24**]  04:45 AM
   WBC
   5.3
   Hct
   26.5
   26.1
   Plt
   168
   135
   Cr
   1.0
   1.0
   TCO2
   15
   Glucose
   147
   135
   Other labs: PT / PTT / INR:19.0/35.6/1.8, ALT / AST:32/83, Alk Phos / T
   Bili:137/1.2, Amylase / Lipase:/123, Differential-Neuts:91.0 %,
   Band:4.0 %, Lymph:3.0 %, Mono:0.0 %, Eos:1.0 %, Lactic Acid:3.8 mmol/L,
   Albumin:2.2 g/dL, LDH:710 IU/L, Ca++:7.2 mg/dL, Mg++:2.4 mg/dL, PO4:2.0
   mg/dL
   Assessment and Plan
   Patient is a 41 year old with HIV, Hep C with recent CD4 41. Presents
   with fever, generalized malaise, myalgias, diarrhea and cough of 3 day
   duration.
   .
    41 y/o M with HIV/AIDS and Hepatitis C admitted to the MICU with
   increased respiratory distress.
   .
   # Respiratory distress: The patient is currently on treatment for CAP
   with negative cultures to date. BAL performed yesterday and culture
   results pending. CT chest from [**9-22**] demonstrates extensive infiltrate
   and ground glass bilaterally which likely represents infection. He is
   currently on treatment for PCP as well with bactrim and steroids.
   - continue bactrim at treatment dose with IV steroids
   - continue treatment for CAP with consideration of broadening coverage
   to include HCAP (however, given lack of new fever new infection is less
   likely)
   - follow BAL, viral, and sputum cultures
   - aspergillus galactomannan negative, beta glucan pending
   - albuteral/atrovent nebs prn
   - if experiences respiratory fatigue, will likely need at least
   non-invasive ventilation
   - ruling out for TB, await BAL results before d/c of precautions
   - maintain respiratory precautions for now
   .
   # Metabolic acidosis: Patient's bicarb down to 13 on labs on arrival.
   Lactate also elevated on ABG on the floor. No anion gap so differential
   includes compensation for respiratory alkalosis, diarrhea (none
   reported for several days), RTA.
   -          continue to monitor with relationship to respiratory status
   -          trend lactate
   .
   # Hyponatremia: ? volume depletion as hospitalized and likely NPO for
   bronch yesterday versus SIADH [**2-5**] lung process.
   - continue to monitor
   - send urine lytes
   .
   # HIV/AIDS: Continue HAART. ID following and appreciate their recs.
   They would like to transition levofloxacin to PO when possible.
   .
   # Hepatitis C: Apparently, complains of right upper quadrant pain
   frequently. Continue to monitor.
   .
   # FEN: advance diet today as patient tolerates, replete lytes prn
   .
   # PPx: bowel meds prn, hep sc tid, ppi.
   .
   # FULL CODE
   .
   # Dispo: pending stabilization of respiratory status.
   ICU Care
   Nutrition:
   Glycemic Control:  under good control
   Lines:
   20 Gauge - [**2118-9-24**] 05:00 AM
   Prophylaxis:
   DVT: hep sc tid
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: monitor in ICU until respiratory status improves

2118-09-25 05:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Cultures showed PCP.  [**Name10 (NameIs) 929**] stopped.
   Zofran for Nausea/Vomiting.  Takes compazine at home
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2118-9-24**] 10:36 AM
   Bactrim (SMX/TMP) - [**2118-9-25**] 12:04 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2118-9-24**] 09:30 PM
   Heparin Sodium (Prophylaxis) - [**2118-9-24**] 09:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-9-25**] 05:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.3
C (97.3
   HR: 84 (81 - 99) bpm
   BP: 116/63(75) {97/47(59) - 125/67(81)} mmHg
   RR: 25 (19 - 40) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,807 mL
                                                                    555 mL
   PO:
             TF:
   IVF:
                                                                  1,807 mL
                                                                    555 mL
   Blood products:
   Total out:
                                                                  1,400 mL
                                                                    400 mL
   Urine:
                                                                  1,400 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    407 mL
                                                                    155 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///13/
   Physical Examination
   General: NAD, pleasant, appropriate, no respiratory distress, wearing
   venti mask
   HEENT: anicteric, non-injected sclear
   Neck: supple
   Cardiovascular: RRR, nl S1/S2, early peaking systolic murmur.
   Respiratory: decreased breath sounds left base > right base with
   crackles
   Gastrointestinal:Soft,tender lower quadrants b/l, no rebound, no
   gaurding. + BS
   Skin: clear, multiple tattoos
   Extremity: edema b/l
   Labs / Radiology
   160 K/uL
   8.4 g/dL
   105 mg/dL
   1.1 mg/dL
   13 mEq/L
   3.8 mEq/L
   21 mg/dL
   104 mEq/L
   130 mEq/L
   25.7 %
   4.3 K/uL
        [image002.jpg] AG: 13
                             [**2118-9-23**]  09:31 PM
                             [**2118-9-23**]  10:02 PM
                             [**2118-9-24**]  04:45 AM
                             [**2118-9-25**]  04:15 AM
   WBC
   5.3
   4.3
   Hct
   26.5
   26.1
   25.7
   Plt
   168
   135
   160
   Cr
   1.0
   1.0
   1.1
   TCO2
   15
   Glucose
   147
   135
   105
   Other labs: PT / PTT / INR:19.0/35.6/1.8, ALT / AST:35/84, Alk Phos / T
   Bili:130/1.1, Amylase / Lipase:/123, Differential-Neuts:91.0 %,
   Band:4.0 %, Lymph:3.0 %, Mono:0.0 %, Eos:1.0 %, Lactic Acid:4.4 mmol/L,
   Albumin:2.2 g/dL, LDH:689 IU/L, Ca++:7.4 mg/dL, Mg++:2.5 mg/dL, PO4:2.3
   mg/dL
   URINE:
   FENa: 0.2
   Na: 24
   Osmolal:605
   Lactate
   [**2118-9-25**] 04:27AM    4.4*1
   [**2118-9-23**] 10:02PM    3.8*
   [**2118-9-23**] 07:23PM    4.3*1
   [**2116-4-8**] 09:33AM    2.4*
   [**2114-8-18**] 04:32PM    1.6
[**2118-9-22**] 9:04 am SPUTUM      Source: Induced.
   RESPIRATORY CULTURE (Final [**2118-9-24**]):
      MODERATE GROWTH OROPHARYNGEAL FLORA.
   Immunoflourescent NEGATIVE for Pneumocystis jirovecii (carinii).
   ACID FAST SMEAR (Final [**2118-9-23**]):
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR.
[**2118-9-23**] 11:30 am BRONCHOALVEOLAR LAVAGE
      SPECIMEN FROM RUL AND LINGULA.
   Immunoflourescent POSITIVE FOR PNEUMOCYSTIS JIROVECII (CARINII).
   ACID FAST SMEAR (Preliminary):
      NO ACID FAST BACILLI SEEN ON DIRECT SMEAR.
      This is only a PRELIMINARY result.  If ruling out tuberculosis, you
      must wait for confirmation by concentrated smear.
----                          ------              ---------------------
AFP                           36.4  H             1.6-4.5 NG/ML
AFP-L3                        <0.5  L             0.5-9.9 %
   Assessment and Plan
   41 y/o M with HIV/AIDS and Hepatitis C admitted to the MICU with
   increased respiratory distress following treatment initiation for PCP
   [**Name Initial (PRE) 931**].
   .
   # Pneumocyctis pneumonia:  Worsening disease following treatment is
   expected with PCP pneumonia, as confirmed by positive PCP exam from
   BAL.   The patient is currently on treatment for CAP with negative
   cultures to date. BAL performed yesterday and culture results pending.
   CT chest from [**9-22**] demonstrates extensive infiltrate and ground glass
   bilaterally which likely represents infection. He is currently on
   treatment for PCP as well with bactrim and steroids.
   - continue bactrim at treatment dose with IV steroids.  Will cut IV
   dose in half today and start PO prednisone once nausea resolved.
   - discontinue CAP treatment.
   - follow BAL, viral, and sputum cultures
   - aspergillus galactomannan negative, beta glucan pending
   - albuteral/atrovent nebs prn
   - ruling out for TB, await BAL results before d/c of precautions
   - maintain respiratory precautions for now
   .
   # Acidosis: Small anion gap secondary to elevated lactate.
   Persistently elevated lactate is consistent with PCP [**Name Initial (PRE) 931**].
Serum
   levels of LDH, beta-D-glucan, and KL-6 were significantly higher in
   PCP-[**Name10 (NameIs) 932**] patients (p < 0.01).
  Chest. [**2117**] [**Month (only) **];131(4):1173-80.
   Likely also has a non-gap acidoses from compensation for respiratory
   alkalosis, diarrhea (none reported for several days), RTA.
   - continue to monitor with relationship to respiratory status
   - trend lactate
   .
   # Hyponatremia: ? volume depletion as hospitalized and likely NPO for
   bronch yesterday versus SIADH [**2-5**] lung process.  Urine lytes
   concentrated, consistent with ADH, but not helpful in determining
   hyponatremia type.  Has not had worsening hyponatremia with fluids so
   will cautiously continue, as he is likely to be dry from recent poor
   PO.
   - D5 NS @ 150 cc/hr for 1L
   - Recheck electrolytes in PM
   .
   # HIV/AIDS: Continue HAART. ID following and appreciate their recs.
   .
   # Hepatitis C: Apparently, complains of right upper quadrant pain
   frequently. Continue to monitor.
   .
   # FEN: advance diet today as patient tolerates, replete lytes prn
   .
   # PPx: bowel meds prn, hep sc tid, ppi.
   .
   # FULL CODE
   .
   # Dispo: Respiratory status stabilized.  Will call out to floor.  If
   AFB from concentrated BAL negative, does not need negative pressure
   isolation.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2118-9-24**] 05:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM [**Known lastname 919**]  c/o
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   HIV/HepC
   diarrhea, ? LGIB
   pna - bronch [**9-23**] pos for PCP
   improving hypoxemia, tachypnea
   nausea, vomiting
   Exam notable for Tm 97.3 BP 116/73 HR 84 RR 25 with 94 sat on RA
   no resp distress
   lung with scattered crackles
   RRR
   abd benign, no tenderness
   CXR reviewed - stable bilat infiltrates
   Labs notable for WBC 1.5K, HCT 26, Na 130 K+ 3.8, Cr 1.1, HCO3 13 AG 13
   lactate 4.4
   7.46/20/64
   LDH 710
   await micro data
   Problems:
   hypoxemia, resp distress, PCP pna
   metabolic acidosis, elevated lactate - ? pna and/or pancreatitis with
   liver dysfunction versus combivir
   HIV
   leukopenia ? bactrim
   hyponatremia
   nausea, vomiting
   likely pancreatitis
   Agree with plan to continue antibiotics, wean steroids, re-check CBC,
   continue HAART, follow lipase, amylase, NPO, IVF with LR
   Remainder of plan as outlined above.
   ------ Protected Section Addendum Entered By:[**Name (NI) 103**] [**Last Name (NamePattern1) 104**], MD
   on:[**2118-9-25**] 14:48 ------

2118-09-27 06:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FALL - At [**2118-9-26**] 12:31 PM
   > Planned bedside paracentesis, but no accessible fluid collection by
   US at bedside
   > Switched [**Year (4 digits) 1008**] to Primaquine and clindamycin
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2118-9-24**] 10:36 AM
   [**Year (4 digits) 1008**] (SMX/TMP) - [**2118-9-25**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-9-27**] 06:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.3
C (95.6
   HR: 90 (74 - 102) bpm
   BP: 126/66(78) {106/52(70) - 139/78(92)} mmHg
   RR: 19 (15 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    995 mL
                                                                    234 mL
   PO:
             100 mL
   TF:
   IVF:
                                                                    995 mL
                                                                    134 mL
   Blood products:
   Total out:
                                                                  1,420 mL
                                                                    355 mL
   Urine:
                                                                    520 mL
                                                                    355 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -425 mL
                                                                   -121 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: 7.41/22/96.[**Numeric Identifier 7**]/17/-7
   PaO2 / FiO2: 97
   Physical Examination
   General Appearance: Drowsey, A&Ox3
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: CTAPB no w/r/r
   Abdominal: Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm, multiple tatoos
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   133 K/uL
   7.7 g/dL
   95 mg/dL
   1.3 mg/dL
   17 mEq/L
   4.4 mEq/L
   33 mg/dL
   104 mEq/L
   129 mEq/L
   23.0 %
   1.9 K/uL
        [image002.jpg]
   N: 75
                             [**2118-9-23**]  09:31 PM
                             [**2118-9-23**]  10:02 PM
                             [**2118-9-24**]  04:45 AM
                             [**2118-9-25**]  04:15 AM
                             [**2118-9-25**]  09:28 AM
                             [**2118-9-25**]  01:10 PM
                             [**2118-9-26**]  01:46 PM
                             [**2118-9-26**]  07:20 PM
                             [**2118-9-26**]  09:49 PM
                             [**2118-9-27**]  03:30 AM
   WBC
   5.3
   4.3
   1.5
   1.1
   1.6
   1.9
   Hct
   26.5
   26.1
   25.7
   24.6
   26.7
   23.0
   Plt
   168
   135
   160
   127
   120
   133
   Cr
   1.0
   1.0
   1.1
   1.3
   1.3
   TCO2
   15
   14
   12
   14
   Glucose
   147
   135
   105
   195
   95
   Other labs: PT / PTT / INR:24.6/35.8/2.4, ALT / AST:44/83, Alk Phos / T
   Bili:112/1.3, Amylase / Lipase:146/119, Differential-Neuts:75.0 %,
   Band:1.0 %, Lymph:22.0 %, Mono:1.6 %, Eos:0.8 %, Albumin:2.2 g/dL,
   LDH:529 IU/L, Ca++:7.0 mg/dL, Mg++:2.8 mg/dL, PO4:3.0 mg/dL
   Lactic Acid:3.8 mmol/L, from 7.8
   Abd CT: massive ascietes, small boewl thjickening, no ischemia or
   perforation.  Pulmonary ground glass.
   Micro: no new growth
   Assessment and Plan
   A/P: 41 y/o M with HIV/AIDS and Hepatitis C admitted to the MICU with
   PCP pneumonia, abdominal pain and rising lactate
   .
   # Lactic acidosis: [**Month (only) 8**] be related to HAART, PCP, [**Name10 (NameIs) 1008**],
   [**Name11 (NameIs) 1009**] process.  Resolving, now 3.8.
   - Hold HAART therapy, discussed with ID
   - Will tap ascites to r/o SBP (IR guided)
   - off [**Name11 (NameIs) **]
   - continue to trend
   .
   # PCP [**Name Initial (PRE) **]:  On primaquine and clindamycin.  Oxygenation is much
   improved, now at 2L NC to room air.
   - continue primaquine/clindamycin
   - albuteral/atrovent nebs prn
   .
   # Metaboli acidosis: Patient's bicarb down to 12 on labs on arrival.
   Lactate also elevated to 6.4 on ABG on the floor. Expected gap 5 based
   on low albumin, calculated gap - 12. Differential includes acute
   intraadominal process, medication related, hypovolemia
   - evaluate abdomen with imaging
   - discuss HAART regimen with ID team
   - D5W with 3amp HCO3 for 1 L
   - continue to monitor with relationship to respiratory status
   .
   # Fall:  Unclear whether this happened.  Patient denies and nothing
   reported to nursing.  Will attempt to obtain more history.
   .
   # PCP [**Name Initial (PRE) 967**]: continue current treatment with [**Name Initial (PRE) **] and steroids, ID
   following, appreciate recs
   .
   # Abdominal Pain: pt with rising lactate in the setting of abdominal
   pain, concern for intraabdominal process - will obtain CT abd/pelvis
   with contrast
   - send c. diff, reports of diarrhea per floor team  (was negative on
   [**9-20**])
   - monitor stool output
   # Hyponatremia: Likely SIADH from lung disease as not resolved with
   rehydration
   - avoid free water
   - continue to monitor
   .
   # HIV/AIDS: Off HAART.  ID following and appreciate their recs.
   - should consider restarting new regimen once lactate resolved.
   .
   # Hepatitis C: Continue to monitor.
   .
   # FEN: will advance diet once cleared by IR.  replete lytes prn
   .
   # PPx: bowel meds prn, hep sc tid, ppi.
   .
   # FULL CODE
   .
   # Dispo: to floor once lactate improved.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2118-9-24**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2118-09-28 05:44:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Subjective shortness of breath and sharp, substernal chest pain, worse
   with inspiration and breathing at 11:30 PM.  Satting 97% on RA.  Other
   VSS.  EKG normal (sub-mm elevations in inferior leads), added on
   enzymes.  Resolved with oxycodone.
   Paracentesis [**2118-9-27**] 01:36 PM
   Diet advanced
   Per ID pharm, started on thiamine, NaHCO3 in D5W for HAART-associated
   lactic acidosis.  L-carnitine not indicated for lactate < 10.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2118-9-25**] 08:00 AM
   Clindamycin - [**2118-9-27**] 10:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2118-9-27**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-9-28**] 05:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.4
C (95.7
   Tcurrent: 34.6
C (94.2
   HR: 77 (77 - 98) bpm
   BP: 120/72(84) {95/35(36) - 129/72(84)} mmHg
   RR: 12 (12 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,601 mL
                                                                    963 mL
   PO:
                                                                  1,170 mL
                                                                    400 mL
   TF:
   IVF:
                                                                    720 mL
                                                                    563 mL
   Blood products:
                                                                    531 mL
   Total out:
                                                                  1,150 mL
                                                                    185 mL
   Urine:
                                                                  1,150 mL
                                                                    185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,451 mL
                                                                    778 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   VBG: 7.46/29/57  (lact 3.4)
   Physical Examination
   General Appearance: Drowsy, A&Ox3
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: Nl S1 S2, RRR, soft systolic murmur
   Peripheral Vascular: 2+ TA pulses
   Respiratory / Chest: CTAPB no w/r/r
   Abdominal: Bowel sounds present, Distended, mild tenderness
   Extremities: trace edema bilaterally
   Skin:  Warm, multiple tattoos
   Labs / Radiology
   116 K/uL
   7.7 g/dL
   115 mg/dL
   1.7 mg/dL
   20 mEq/L
   4.5 mEq/L
   49 mg/dL
   101 mEq/L
   127 mEq/L
   24.0 %
   3.4 K/uL
        [image002.jpg]
                             [**2118-9-24**]  04:45 AM
                             [**2118-9-25**]  04:15 AM
                             [**2118-9-25**]  09:28 AM
                             [**2118-9-25**]  01:10 PM
                             [**2118-9-26**]  01:46 PM
                             [**2118-9-26**]  07:20 PM
                             [**2118-9-26**]  09:49 PM
                             [**2118-9-27**]  03:30 AM
                             [**2118-9-27**]  04:55 PM
                             [**2118-9-28**]  03:03 AM
   WBC
   4.3
   1.5
   1.1
   1.6
   1.9
   3.4
   Hct
   26.1
   25.7
   24.6
   26.7
   23.0
   24.0
   Plt
   135
   160
   127
   120
   133
   116
   Cr
   1.0
   1.1
   1.3
   1.3
   1.7
   TropT
   <0.01
   TCO2
   14
   12
   14
   19
   Glucose
   135
   105
   195
   95
   115
   Other labs: PT / PTT / INR:24.6/35.8/2.4, CK / CKMB /
   Troponin-T:303/7/<0.01, ALT / AST:44/83, Alk Phos / T Bili:112/1.3,
   Amylase / Lipase:146/119, Differential-Neuts:84.1 %, Band:1.0 %,
   Lymph:13.6 %, Mono:1.9 %, Eos:0.1 %, Lactic Acid:3.4 mmol/L,
   Albumin:2.2 g/dL, LDH:529 IU/L, Ca++:7.4 mg/dL, Mg++:3.1 mg/dL, PO4:3.0
   mg/dL
ASCITES: WBC 3, RBC 4, PML 1
ASCITES GRAM STAIN (Final [**2118-9-27**]):
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
      NO MICROORGANISMS SEEN.
      This is a concentrated smear made by cytospin method, please refer to
      hematology for a quantitative white blood cell count.
No growth
BCX: No growth
CT ABDOMEN:
1. Massive abdominal and pelvic ascites with thickened bowel , most likely
consistent with anasarca.
2. Nodular liver with recanalization of umbilical vein and underlying
splenomegaly, concerning for cirrhosis.
3. Multilobular ground-glass pulmonary opacities with no definite cause, most
likely due to underlying edema. However, inflammatory and infectious process
cannot be ruled out.
   Assessment and Plan
   41 y/o M with HIV/AIDS and Hepatitis C admitted to the MICU with PCP
   pneumonia, abdominal pain and rising lactate
   .
   # Lactic acidosis: [**Month (only) 8**] be related to HAART, PCP, [**Name10 (NameIs) 1009**]
   process.  Resolving, now 3.4.  Decreased value may be an effect of
   bicarbonate overnight.  Will discuss with ID, but duration of lactate
   acidosis from HAART is reportedly 7-14 days and his lactate may take
   this long to resolve.  No suggestion from imaging or peritoneal fluid
   labs for an intra-abdominal cause.
   - Hold HAART therapy, discussed with ID
   - continue to trend
   - Thiamine and NaHCO3 for treatment of lactatic acidosis
   .
   # PCP [**Name Initial (PRE) **]:  On primaquine and clindamycin.  Oxygenation is much
   improved, now at 2L NC to room air.
   - continue primaquine/clindamycin
   - Prednisone
   - albuteral/atrovent nebs prn
   .
   # Acute renal failure: Likely [**2-5**] mitochondrial dysfunction.  Also got
   contrast.
   - Send urine lytes, sediment, eos
   - Would c/s renal if not resolved.
   .
   # Abdominal Pain: Low-protein ascites and abdominal pain in the context
   of hep C and EtOH use are consistent with imaging suggestive of
   cirrhosis.  This fluid is likely the cause of his abdominal pain.  C.
   diff negative.
   - Well controlled without medications.  Can use low dose opiods if
   needed.  Would avoid APAP.
   .
   # Hyponatremia: Likely SIADH from lung disease as not resolved with
   rehydration.  Bactrim may have contributed but is now off.
   - avoid free water
   - continue to monitor
   .
   # HIV/AIDS: Off HAART.  ID following and appreciate their recs.
   - may consider restarting new regimen once lactate resolved.
   .
   # Hepatitis C: Continue to monitor.
   .
   # FEN: will advance diet once cleared by IR.  replete lytes prn
   .
   # PPx: bowel meds prn, pneumoboots, ppi.
   .
   # FULL CODE
   .
   # Dispo: to floor this afternoon if stable.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2118-9-24**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: